US06891066B2
3,4-Difluoro-2-{2-fluoro-4-[3-(tetrahydro-2H-pyran-2-yloxy)-1-propynyl]anilino}-N-(2-hydroxyethoxy)benzamide (115 mg, 0.25 mmol) was dissolved in EtOH (4 mL) to which was added 1 M HCl (5 drops). This reaction mixture was stirred overnight at RT, then the mixture was diluted with water (50 mL) and extracted with EtOAc (4×30 mL). The combined EtOAc fractions were washed with water (2×20 mL), brine (50 mL) and dried (Na2SO4) then the solvent removed under reduced pressure to afford a white solid which was purified by filtration through a plug of silica gel (EtOAc as eluant) to afford 3,4-difluoro-2-[2-fluoro-4-(3-hydroxy-1-propynyl)anilino]-N-(2-hydroxyethoxy)benzamide as a cream solid (94 mg, 100%); m.p. (Et2O/hexane) 169-172° C. 1H NMR [400 MHz, (CD3)2SO] δ 11.84 (br s, 1 H), 8.91 (br s, 1 H), 7.46-7.40 (m, 1 H), 7.29-7.19 (m, 2 H), 7.10 (dd, J=8.3, 1.6 Hz, 1 H), 6.78 (ddd, J=8.9, 8.9, 4.8 Hz, 1 H), 5.29 (t, J=5.9 Hz, 1 H), 4.76 (br s, 1 H), 4.27 (d, J=5.9 Hz, 2 H), 3.84 (t, J=4.8 Hz, 2 H), 3.56 (t, J=4.8 Hz, 2 H). Anal. calcd. for C18H15F3N2O4: C, 56.9; H, 4.0; N, 7.4. Found C, 56.8; H, 4.0; N, 7.4.

reactant | 3,4-Difluoro-2-{2-fluoro-4-[3-(tetrahydro-2H-pyran-2-yloxy)-1-propynyl]anilino}-N-(2-hydroxyethoxy)benzamide | 0.25 mmol, 115 mg | FC=1C(=C(C(=O)NOCCO)C=CC1F)NC1=C(C=C(C=C1)C#CCOC1OCCCC1)F | C23H23F3N2O5
solvent | EtOH | 4 mL | CCO | C2H6O
catalyst | HCl | 1 M, 5 drops | Cl | ClH
solvent | water | 50 mL | O | H2O
product | 3,4-difluoro-2-[2-fluoro-4-(3-hydroxy-1-propynyl)anilino]-N-(2-hydroxyethoxy)benzamide | 94 mg, 100% | FC=1C(=C(C(=O)NOCCO)C=CC1F)NC1=C(C=C(C=C1)C#CCO)F | C18H15F3N2O4
